* Z:\mnt\spice-netlists\LTC3625_TA04_LT1784_1.asc
XU1 N006 IN 0 0 IN N009 IN N007 N008 N003 OUT N002 0 LTC3625
R1 N009 N005 143K
C1 OUT N003 50m
C2 N003 0 50m
L1 N002 N003 3.3µ
L2 N006 N003 3.3µ
C3 IN 0 10µ
XU2 N010 N004 N005 IN 0 NC_01 LT1784
R2 N005 N004 174K
R3 N004 0 10K
R4 IN N004 26.7K
C4 N005 N004 100p
R5 IN N010 10K
C5 N010 0 10n
C6 IN 0 390µ
XU3 0 N001 PhotoCell
D1 N001 IN MBR745
XU4 N010 0 LT1634-1.25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 4m
.subckt PhotoCell B A
C1 A B 1n
V1 N001 B PWL 0 0 1m 6 2m 4 3m 6
D1 N001 A S2
R1 A N001 75
.model S2 D(Ron=.1 Ilimit=5.1 epsilon=.5)
.ends
.ic V(out)=4.4
* LTC3625 - 1A High Efficiency 2-Cell Supercapacitor Charger with Automatic Cell Balancing\nLT1784 - 2.5MHz, Over-The-Top Low Power, Rail-to-Rail Input and Output Op Amp\nLT1634 - µPower Precision Shunt Voltage Reference\nSolar Powered SCAP Charger with MPPT\nInput: 6Voc Solar Panel, 4.4V MPP     Output: 4.9V (2.45Vmax/Cell)
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LTC2.LIB
.lib LTC3.lib
.lib LTC3625.sub
.backanno
.end
